US04406690
A mixture of 2-(4-chlorophenethoxy)-5-nitropyridine (1 g), ammonium chloride (1.9 g), ethanol (40 ml) and water (20 ml) is heated to 70° and then iron powder (1 g), under nitrogen, is added in small portions over about 15 minutes. Heating is continued about 2 hours after the addition of iron is complete. The reaction is cooled and stripped. The residue is taken up in ether, washed with water, dried and solvent evaporated to give 5-amino-2-(4-chlorophenethoxy)pyridine.

reactant | 2-(4-chlorophenethoxy)-5-nitropyridine | 1 g | ClC1=CC=C(CCOC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C13H11ClN2O3
reactant | ammonium chloride | 1.9 g | [Cl-].[NH4+]
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | water | 20 ml | O | H2O
solvent | ether | CCOCC | C4H10O
catalyst | iron | 1 g | [Fe] | Fe
product | 5-amino-2-(4-chlorophenethoxy)pyridine | NC=1C=CC(=NC1)OCCC1=CC=C(C=C1)Cl | C13H13ClN2O
